US05760032
5-(2-Chlorophenyl)-7-ethyl-2-hydrazino-3H-thieno[2,3-e] [1,4]diazepine (20 g) was suspended in chloroform (200 ml) at room temperature. Cyclohexanecarboxylic acid chloride (10.1 g) was added, and the mixture was stirred for 3 hours. The reaction mixture was washed with a saturated aqueous sodium hydrogencarbonate solution and saturated brine, and dried over magnesium sulfate. The solvent was evaporated to give an oil. The oil was dissolved in a mixed solvent of toluene (200 ml) and acetic acid (5.4 ml), and the mixture was refluxed for 3 hours. The reaction mixture was washed with a saturated aqueous sodium hydrogencarbonate solution and saturated brine and dried over magnesium sulfate. The solvent was evaporated. The residue was purified by silica gel column chromatography (eluted with ethyl acetate), and isopropyl ether was added to give 15 g of 4-(2-chlorophenyl)-9-cyclohexyl-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine.

reactant | 5-(2-Chlorophenyl)-7-ethyl-2-hydrazino-3H-thieno[2,3-e] [1,4]diazepine | 20 g | ClC1=C(C=CC=C1)C=1C2=C(N=C(CN1)NN)SC(=C2)CC | C15H15ClN4S
reactant | Cyclohexanecarboxylic acid chloride | 10.1 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 5.4 ml | C(C)(=O)O | C2H4O2
product | 4-(2-chlorophenyl)-9-cyclohexyl-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine | 15 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)CC)C(=NN2)C2CCCCC2 | C22H23ClN4S
